US06147031
Preparation of 3-(4,5-dihydroisoxazol-3-yl)-4-methylsulfonyl-2-methylbenzoic acid
To 3.00 g of methyl 3-(4,5-dihydroisoxazol-3-yl)-4-methylsulfonyl-2-methylbenzoate were added 10 ml of ethanol and 20 ml of a 1N sodium hydroxide solution to stir at room temperature for 2 days. Ethanol was distilled out under reduced pressure. The remaining solution was acidified with hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with water, then with a saturated sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was distilled out under reduced pressure to give 2.75 g of the title compound as white crystals. m.p. 182~184.5° C.

reactant | methyl 3-(4,5-dihydroisoxazol-3-yl)-4-methylsulfonyl-2-methylbenzoate | 3.00 g | O1N=C(CC1)C=1C(=C(C(=O)OC)C=CC1S(=O)(=O)C)C | C13H15NO5S
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-(4,5-dihydroisoxazol-3-yl)-4-methylsulfonyl-2-methylbenzoic acid | 2.75 g | O1N=C(CC1)C=1C(=C(C(=O)O)C=CC1S(=O)(=O)C)C | C12H13NO5S
